US04939253
(A) (3S-trans)-[[3-[(t-Butyloxycarbonyl)amino]-2-methyl-4-oxo-1-azetidinyl]oxy]acetic acid, 2-propenyl ester
To a solution of 17.3 g of (3S-trans)-3-(t-butyloxycarbonylamino)-1-hydroxy-4-methyl-2-azetidinone and 12.9 g of chloroacetic acid, 2-propenyl ester in 350 ml of dry dimethylformamide. The mixture was allowed to stand for 4 days at room temperature and subsequently worked up as described in Example 90B. Yield 25.5 g of crude ester.

reactant | (3S-trans)-3-(t-butyloxycarbonylamino)-1-hydroxy-4-methyl-2-azetidinone | 17.3 g | C(C)(C)(C)OC(=O)N[C@@H]1C(N([C@H]1C)O)=O | C9H16N2O4
reactant | chloroacetic acid, 2-propenyl ester | 12.9 g | ClCC(=O)OCC=C | C5H7ClO2
solvent | dimethylformamide | 350 ml | CN(C=O)C | C3H7NO
product | (3S-trans)-[[3-[(t-Butyloxycarbonyl)amino]-2-methyl-4-oxo-1-azetidinyl]oxy]acetic acid, 2-propenyl ester | C(C)(C)(C)OC(=O)N[C@H]1[C@@H](N(C1=O)OCC(=O)OCC=C)C | C14H22N2O6
